US04564690
1.71 g (0.036 mol) of sodium hydride was added to 40 ml of tetrahydrofuran dried over metallic sodium, and to this solution was added dropwise a mixed solution of 17.6 g (0.048 mol) of bis(2-iodoethoxy)ethane and 1.92 g (0.012 mol) of diethyl malonate, the mixture being refluxed under heating for hours. Tetrahydrofuran was distilled off and the residue was cooled to room temperature, added with 1N hydrochloric acid until the litmus paper came to indicate acidity and then extracted three times with 50 ml of ether. After drying the extract over anhydrous sodium sulfate, ether was distilled off and the oily residue was passed through a silica gel-packed column and eluted with petroleum ether-ether (2:1) to obtain 2.90 g of 2,2-bis(8-iodo-3,6-dioxaoctyl)malonic acid diethyl ester, (ICH2CH2OCH2CH2OCH2CH2)2 -C(CO2Et)2 (yield: 38%).

reactant | sodium hydride | 0.036 mol, 1.71 g | [H-].[Na+]
reactant | bis(2-iodoethoxy)ethane | 0.048 mol, 17.6 g | ICCOC(C)OCCI | C6H12I2O2
reactant | diethyl malonate | 0.012 mol, 1.92 g | C(CC(=O)OCC)(=O)OCC | C7H12O4
solvent | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
product | 2,2-bis(8-iodo-3,6-dioxaoctyl)malonic acid diethyl ester | 2.90 g | C(C)OC(C(C(=O)OCC)(CCOCCOCCI)CCOCCOCCI)=O | C19H34I2O8
